US07834042B2
Step D: potassium 5-(4′-{[5-({[(5R)-5,6-bis(nitrooxy)hexanoyl]oxy}methyl)-2-butyl-4-chloro-1H-imidazol-1-yl]methyl}biphenyl-2-yl)tetrazol-2-ide
To a mixture of (2-butyl-4-chloro-1-{[2′-(2H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazol-5-yl)methyl (5R)-5,6-bis(nitrooxy)hexanoate (349.3 mg, 0.543 mmol) and potassium carbonate (922.7 mg, 6.68 mmol) was added 2-propanol (25 mL). After 30 minutes, the reaction mixture was filtered and concentrated in vacuo. More washings of the residual solids were performed with ethyl acetate, and the product was precipitated with hexanes. Repeating the cycle twice and drying of the solid in vacuo afforded the title compound as a white solid. 1H NMR (500 MHz, CD3CN) δ 7.62 (dd, J=1.3, 7.3 Hz, 1H), 7.39 (dt, J=1.6, 7.4 Hz, 1H), 7.36 (dt, J=1.6, 7.3 Hz, 1H), 7.31 (dd, J=1.7, 7.4 Hz, 1H), 7.14 (d, J=8.2 Hz, 2H), 6.83 (d, J=8.2 Hz, 2H), 5.27 (dq, J=2.6, 6.4 Hz, 1H), 5.13 (s, 2H), 4.96 (s, 2H), 4.76 (dd, J=2.6, 12.9 Hz, 1H), 4.51 (dd, J=6.1, 12.9 Hz, 1H), 2.54 (t, J=7.7 Hz, 2H), 2.05 (dt, J=1.8, 7.1 Hz, 2H), 1.48-1.68 (m, 6H), 1.30 (pent, J=7.5 Hz, 2H), 0.85 (t, J=7.3 Hz, 3H). LCMS: m/e 643.2 (M+H).

reactant | (2-butyl-4-chloro-1-{[2′-(2H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazol-5-yl)methyl (5R)-5,6-bis(nitrooxy)hexanoate | 0.543 mmol, 349.3 mg | [N+](=O)([O-])O[C@H](CCCC(=O)OCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNN1)CCCC)Cl)CO[N+](=O)[O-] | C28H31ClN8O8
reactant | potassium carbonate | 6.68 mmol, 922.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | potassium 5-(4′-{[5-({[(5R)-5,6-bis(nitrooxy)hexanoyl]oxy}methyl)-2-butyl-4-chloro-1H-imidazol-1-yl]methyl}biphenyl-2-yl)tetrazol-2-ide | [N+](=O)([O-])O[C@H](CCCC(=O)OCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=N[N-]N1)CCCC)Cl)CO[N+](=O)[O-].[K+] | InChI=1S/C28H30ClN8O8.K/c1-2-3-10-25-30-27(29)24(18-43-26(38)11-6-7-21(45-37(41)42)17-44-36(39)40)35(25)16-19-12-14-20(15-13-19)22-8-4-5-9-23(22)28-31-33-34-32-28;/h4-5,8-9,12-15,21H,2-3,6-7,10-11,16-18H2,1H3;/q-1;+1/t21-;/m1./s1
